US06924276B2
Step (a): Preparation of 2,4-dimethoxythiazole
To a stirred solution of 2,4-thiazolidindione (0.01 mol) in a solvent such as THF is added from 2 to 4 mol equivalents of a non-nucleophilic base such as sodium hydride or LDA, followed by methyl iodide, and the mixture is stirred. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of the desired product is formed, the mixture is partitioned between ethyl acetate and water. The organic layer is washed with brine, dried over sodium sulfate, and rotary evaporated to give 2,4-dimethoxythiazole, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 2,4-thiazolidindione | 0.01 mol | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | CI | CH3I
reactant | THF | C1CCOC1 | C4H8O
product | 2,4-dimethoxythiazole | COC=1SC=C(N1)OC | C5H7NO2S
